US05502073
Methyl 4-amino-3,5-dichlorobenzoate (32 g.) dissolved in 48% hydrobromic acid (100 ml.) was cooled to 0° and sodium nitrite (10.5 g.) was added. The solution was added slowly to a mixture of 48% hydrobromic acid (80 ml.) and cuprous bromide (35 g.) and the mixture heated at reflux for 2 hours. After cooling, the mixture was extracted with ethyl acetate and the organic extracts washed with brine, dried (anhydrous magnesium sulphate) and evaporated to give a dark solid. Crystallisation from ethyl acetate gave methyl 4-bromo-3,5-dichlorobenzoate (20 g.). Nuclear Magnetic Resonance Spectrum (NMR) was as follows: 1H: 4.0,3H,s; 7.9,2H,s.

reactant | Methyl 4-amino-3,5-dichlorobenzoate | 32 g | NC1=C(C=C(C(=O)OC)C=C1Cl)Cl | C8H7Cl2NO2
reactant | sodium nitrite | 10.5 g | N(=O)[O-].[Na+]
reactant | hydrobromic acid | 100 ml | Br | BrH
reactant | hydrobromic acid | 80 ml | Br | BrH
product | methyl 4-bromo-3,5-dichlorobenzoate | 20 g | BrC1=C(C=C(C(=O)OC)C=C1Cl)Cl | C8H5BrCl2O2
